US09233946B2
Methyl 3-{[(5-chloro-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoate
A solution of 5-chloro-3-methylbenzothiophene-2-sulfonyl chloride (50 mg, 0.178 mmol) and methyl 3-aminobenzoate (17 mg, 0.112 mmol) in aqueous dioxane (900 μL, 8:1 dioxane/water) was stirred at room temperature for 4 days. The reaction mixture was diluted with MeOH (1 mL) and the crude product was purified by reversed phase chromatography (ACE C8, 5 μm, 21×50 mm, flow 25 ml/min, 0.1% TFA in water/MeCN over 6 minutes). The title compound was obtained in 69% yield (30.5 mg). 1H NMR (500 MHz, MeOH-d4) δ ppm 2.49 (s, 3 H) 3.85 (s, 3 H) 7.35 (ddd, J=8.12, 7.31, 0.56 Hz, 1 H) 7.38 (ddd, J=8.12, 2.20, 1.58 Hz, 1 H) 7.46 (dd, J=8.65, 2.05 Hz, 1 H) 7.74 (dt, J=7.31, 1.58 Hz, 1 H) 7.82 (ddd, J=2.20, 1.58, 0.56 Hz, 1 H) 7.84 (dd, J=8.65, 0.56 Hz, 1 H) 7.85 (dd, J=2.05, 0.56 Hz, 1 H). MS (ESI+) m/z 396 [M+H]+.

reactant | 5-chloro-3-methylbenzothiophene-2-sulfonyl chloride | 0.178 mmol, 50 mg | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)Cl)C)C1 | C9H6Cl2O2S2
reactant | methyl 3-aminobenzoate | 0.112 mmol, 17 mg | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
solvent | dioxane | 900 μL | O1CCOCC1 | C4H8O2
solvent | MeOH | 1 mL | CO | CH4O
product | Methyl 3-{[(5-chloro-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoate | 69% yield | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC=2C=C(C(=O)OC)C=CC2)C)C1 | C17H14ClNO4S2
